US05538988
A mixture of 4,6-difluoroindan-1-one (11.3 g, 67.26 mmol), 2,2-dimethoxyethylamine (7.07 g, 67.26 mmol) and sodium cyanoborohydride (4.23 g) in 75 mL of methanol was heated at gentle reflux and stirred under nitrogen for approximately 18 hours. Additional sodium cyanoborohydride (2.12 g) was added and the mixture was heated at 65° C. for 20 hours. The solvents were removed by evaporation. Purification of the residue by column chromatography on silica gel (elution: 2.5% methanol/methylene chloride) gave (4,6-difluoroindan-1-yl)-(2,2-dimethoxyethyl)amine.

reactant | 4,6-difluoroindan-1-one | 67.26 mmol, 11.3 g | FC1=C2CCC(C2=CC(=C1)F)=O | C9H6F2O
reactant | 2,2-dimethoxyethylamine | 67.26 mmol, 7.07 g | COC(CN)OC | C4H11NO2
reactant | sodium cyanoborohydride | 4.23 g | C(#N)[BH3-].[Na+]
reactant | sodium cyanoborohydride | 2.12 g | C(#N)[BH3-].[Na+]
solvent | methanol | 75 mL | CO | CH4O
product | (4,6-difluoroindan-1-yl)-(2,2-dimethoxyethyl)amine | FC1=C2CCC(C2=CC(=C1)F)NCC(OC)OC | C13H17F2NO2
